US07183273B2
AMD8799: Preparation of N-(2-pyridinylmethyl)-N′-[3-pyrazolylmethyl]-N′-(5,6,7,8-tetrahydro-8-quinolinyl)-1,4-benzenedimethanamine (hydrobromide salt)
Using general procedure A: Reaction of 3-pyrazolecarboxaldehyde (85 mg, 0.88 mmol) and N-(2-nitrobenzenesulfonyl)-N-(2-pyridinylmethyl)-N′-(5,6,7,8-tetrahydro-8-quinolinyl)-1,4-benzenedimethanamine (320 mg, 0.589 mmol) with sodium cyanoborohydride (55 mg, 0.883 mmol) followed by purification of the crude material by column chromatography on silica gel (5% methanol in dichloromethane), gave the desired product (166 mg, 45%).

reactant | 3-pyrazolecarboxaldehyde | 0.88 mmol, 85 mg | N1N=C(C=C1)C=O | C4H4N2O
reactant | N-(2-nitrobenzenesulfonyl)-N-(2-pyridinylmethyl)-N′-(5,6,7,8-tetrahydro-8-quinolinyl)-1,4-benzenedimethanamine | 0.589 mmol, 320 mg | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)N(CC1=CC=C(C=C1)CNC1CCCC=2C=CC=NC12)CC1=NC=CC=C1 | C29H29N5O4S
reactant | sodium cyanoborohydride | 0.883 mmol, 55 mg | C(#N)[BH3-].[Na+]
product | N-(2-pyridinylmethyl)-N′-[3-pyrazolylmethyl]-N′-(5,6,7,8-tetrahydro-8-quinolinyl)-1,4-benzenedimethanamine | 166 mg, 45% | N1=C(C=CC=C1)CNCC1=CC=C(C=C1)CN(C1CCCC=2C=CC=NC12)CC1=NNC=C1 | C27H30N6
